US09340538B2
Step C: 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(4-(2-(isopropylamino)-2-oxoethyl)thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(4-(2-(isopropylamino)-2-oxo ethyl)thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1.2 g, 2 mmol) was reacted with morpholine-3-carboxylic acid (0.39 g, 3 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (0.64 g, 49%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(4-(2-(isopropylamino)-2-oxo ethyl)thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 1.2 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=C(N1)CC(=O)NC(C)C | C22H23Br2FN4O3S
reactant | morpholine-3-carboxylic acid | 3 mmol, 0.39 g | N1C(COCC1)C(=O)O | C5H9NO3
product | 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(4-(2-(isopropylamino)-2-oxoethyl)thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.64 g, 49% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=C(N1)CC(=O)NC(C)C)CN1C(COCC1)C(=O)O)C(=O)OCC | C27H31BrFN5O6S
